US07374926B2
To a stirring solution of (S)-3-hydroxy-4-trityloxybutanenitrile (5.15 g, 15.01 mmol) in 15 mL of ethanol at room temperature was added aqueous NH3 (50 mL) and H2O2 (100 vol.) (34 mL, 300.00 mmol) was added in portions while maintaining the temperature of the reaction mixture below 25° C. After complete addition, the resultant reaction mixture was stirred vigorously at 25-30° C. and the reaction progress was monitored by TLC. On completion of the reaction (overnight) as indicated by the TLC, the reaction volume was concentrated to about 50% of the original volume under reduced pressure and the resultant mixture was extracted with dichloromethane (3×75 mL). The combined organic layers were dried over anhydrous Na2SO4 and the solvent was evaporated to leave a residue, which was purified by column chromatography employing EtOAc-hexane (80:20) as eluent to afford (S)-3-hydroxy-4-trityloxy butanamide in almost quantitative yield. m.p. 96-100° C.; [α]27D=−18.08 (c 1.0, MeOH); IR (KBr) 3467, 3349, 3012, 2980, 2918, 2839, 1671, 1098, 1076 cm−1; 1HNMR (300 MHz, CDCl3) δ 2.36 (d, 2H, J=6.5 Hz), 3.13-3.16 (m, 2H), 3.28 (6S, 1H), 4.11-4.15 (m, 1H), 5.44 (br, s, 1H), 7.18-7.38 (m, 9H), 7.39-7.42 (m, 6H); Mass (EI) 361, 259, 243, 165, 77.

reactant | (S)-3-hydroxy-4-trityloxybutanenitrile | 15.01 mmol, 5.15 g | O[C@@H](CC#N)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21NO2
reactant | NH3 | 50 mL | N | H3N
reactant | H2O2 | 300.00 mmol, 34 mL | OO | H2O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (S)-3-hydroxy-4-trityloxy butanamide | quantitative yield | O[C@@H](CC(=O)N)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23NO3
